US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-trichloroacetylcarbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 1.9 g.) was added to an aqueous solution (80 ml.) of sodium bicarbonate (225 mg.), and adjusted to pH 7.0 with saturated aqueous sodium bicarbonate. Methanol (4 ml.) was added to the solution and stirred at room temperature for 2.5 hrs. The reaction mixture was adjusted to pH 7.5 and washed with ethyl acetate. The aqueous solution was adjusted to pH 2.0 with 6N-hydrochloric acid and extracted with ethyl acetate. The extract was washed with aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with diethyl ether and dried to give 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 0.95 g.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-trichloroacetylcarbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.9 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(NC(C(Cl)(Cl)Cl)=O)=O)C(=O)O)C1=O)=NOC)Br | C18H14BrCl3N6O9S2
reactant | sodium bicarbonate | 80 ml, 225 mg | C([O-])(O)=O.[Na+]
solvent | Methanol | 4 ml | CO | CH4O
product | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.95 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOC)Br | C16H15BrN6O8S2
